US07897767B2
A mixture of N-[4-(8-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl)butyl]methanesulfonamide (205 mg, 0.40 mmol), hydrazine hydrate (0.4 mL), and ethanol (4 mL) was stirred for 30 minutes. The solvent was removed under reduced pressure and the residue was partitioned between 1 M aqueous HCl (20 mL) and dichloromethane (10 mL). The aqueous phase was washed with dichloromethane (3×8 mL), then was adjusted to pH 12 with 1 M aqueous sodium hydroxide and was concentrated under reduced pressure. To the residue was added acetone (10 mL) and methanol (10 mL), and the reaction mixture was stirred for 3 hours. The solvent was removed under reduced pressure and the residue was partitioned between dichloromethane (20 mL) and saturated aqueous sodium carbonate (20 mL). The aqueous phase was extracted with dichloromethane (3×10 mL). The organic layers were combined, washed with saturated aqueous sodium carbonate (3×10 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 20-40% CMA in chloroform, where CMA is 80:18:2 chloroform/methanol/concentrated ammonium hydroxide) to yield 91 mg of N-{4-[5,6-dimethyl-8-({[(1-methylethylidene)amino]oxy}methyl)-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}methanesulfonamide as a white foam.

reactant | N-[4-(8-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl)butyl]methanesulfonamide | 0.40 mmol, 205 mg | O=C1N(C(C2=CC=CC=C12)=O)OCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCCCNS(=O)(=O)C | C22H24N8O5S
reactant | hydrazine hydrate | 0.4 mL | O.NN
reactant | ethanol | 4 mL | C(C)O | C2H6O
product | N-{4-[5,6-dimethyl-8-({[(1-methylethylidene)amino]oxy}methyl)-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}methanesulfonamide | 91 mg | CC1=C(C2=C(C=3N1N=NN3)N=C(N2CCCCNS(=O)(=O)C)CON=C(C)C)C | C17H26N8O3S
